US08835432B2
(S)-2-(1-(2-Chloro-8-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione (14.0 g, 39.5 mmol), 2-(methylthio)phenylboronic acid (9.95 g, 59.2 mmol), and potassium carbonate (16.4 g, 118 mmol) were combined in 300 mL of anhydrous DMF under an atmosphere of N2. The solution was sparged with N2 for ˜5 min before adding PdCl2(dppf)CH2Cl2 (3.22 g, 3.95 mmol). The solution was heated at 100° C. for 3 h, and then cooled to 50° C. The solution was concentrated under vacuum to give a brownish residue, which was diluted with EtOAc (600 mL). The organic layers were then washed with H2O (3×80 mL), followed by brine (1×100 mL). The combined aq. layers were extracted with DCM (3×200 mL). The combined organic layers were dried over MgSO4 and then concentrated under vacuum. The residue obtained was purified by silica gel flash chromatography eluting with a gradient of 20% hexane to 40% EtOAc/hexane. The fractions containing the pure product were combined and concentrated under vacuum to give 2-((1S)-1-(8-fluoro-2-(2-(methylthio)phenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione (14.6 g, 33.0 mmol, 84% yield) as a light yellow foam. The proton NMR reflects a 53/47 ratio of atropisomers at 25° C. 1H NMR (500 MHz, CDCl3) δ ppm 8.71 (br s, 0.53H), 8.65 (br s, 0.47H), 7.79 (m, 1H), 7.66 (s, 4H), 7.55 (m, 1H), 7.45-7.27 (series of m, 3.6; H), 6.87 (m, 1.4H), 5.70 (q J=6.4 Hz, 0.47H), 5.63 (q, J=6.8 Hz, 0.53H), 2.47 (br s, 1.4H), 1.91 (m, 3H), 1.52 (br s, 1.6H). Mass Spectrum (ESI) m/e=443.2 (M+1).

reactant | (S)-2-(1-(2-Chloro-8-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 39.5 mmol, 14.0 g | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)F | C19H12ClFN2O2
reactant | 2-(methylthio)phenylboronic acid | 59.2 mmol, 9.95 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | potassium carbonate | 118 mmol, 16.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
product | 2-((1S)-1-(8-fluoro-2-(2-(methylthio)phenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | 33.0 mmol, 14.6 g, 84% yield | FC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)SC)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C26H19FN2O2S
